US07919519B2
To a solution of ethylmagnesium chloride (2M in tetrahydrofuran, 10.63 mL, 21.26 mmol) under nitrogen at room temperature was added zinc chloride (0.5M in tetrahydrofuran, 5.67 mL, 2.84 mmol) via syringe. The mixture was stirred at room temperature for 1 h. The reaction mixture was brought to 0° C. and benzofuran-5-yl(phenyl)methanone (3.15 g, 14.17 mmol) in tetrahydrofuran (10 mL) was added via syringe. The reaction mixture was stirred at 0° C. for 2.5 h. The reaction mixture was cooled to room temperature and quenched with saturated aqueous NH4Cl. EtOAc was added, and the aqueous layer was separated and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried (MgSO4), and concentrated to give a crude oil. The crude product was purified by silica flash chromatography (0-100% DCM/hexanes) to give 1-(benzofuran-5-yl)-1-phenylpropan-1-ol as an off-white oil. 1H NMR (400 MHz, Chloroform-d) δ ppm 7.69 (1H, d, J=1.6 Hz), 7.60 (1H, d, J=2.2 Hz), 7.39-7.45 (3H, m), 7.28-7.34 (3H, m), 7.22 (1H, tt, J=7.2, 1.4 Hz), 6.73 (1H, dd, J=2.2, 1.0 Hz), 2.38 (2H, q, J=7.3 Hz), 2.09 (1H, s), 0.90 (3H, t, J=7.3 Hz).

reactant | ethylmagnesium chloride | 21.26 mmol, 2M, 10.63 mL | C(C)[Mg]Cl
reactant | benzofuran-5-yl(phenyl)methanone | 14.17 mmol, 3.15 g | O1C=CC2=C1C=CC(=C2)C(=O)C2=CC=CC=C2 | C15H10O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 2.84 mmol, 0.5M, 5.67 mL | [Cl-].[Zn+2].[Cl-]
product | 1-(benzofuran-5-yl)-1-phenylpropan-1-ol | O1C=CC2=C1C=CC(=C2)C(CC)(O)C2=CC=CC=C2 | C17H16O2
